US08053431B2
A solution of 1-(2-hydroxyethyl)-1H-benzimidazole-5-carboxylic acid methyl ester (0.5 g. 2.27 mmol) in a mixture of dry THF:DME (25 mL:15 mL) was cooled to 5° C. NaH (0.081 g, 3.4 mmol) was added and stirred for 30 min at the same temperature. A mixture of chloromethyl methyl sulphide (0.285 g, 2.95 mmol) and NaI (0.408 g, 2.95 mmol) was then added slowly followed by TBAI (0.087 g, 0.22 mmol). The reaction was allowed to stir for overnight at ambient temperature. It was then quenched with saturated ammonium chloride solution and extracted with EtOAc. The organic layer was evaporated to give 0.53 g (83%) of 1-(2-methylsulfanylmethoxyethyl)-1H-benzimidazole-5-carboxylic acid methyl ester. 1H NMR (300 MHz, CDCl3) δ 1.9 (s, 3H), 3.9 (t, 2H), 3.95 (s, 3H), 4.4 (t, 2H), 4.6 (s, 2H), 7.45 (d, 1H), 8.05 (m, 2H), 8.5 (d, 1H)

reactant | 1-(2-hydroxyethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 2.27 mmol, 0.5 g | COC(=O)C1=CC2=C(N(C=N2)CCO)C=C1 | C11H12N2O3
reactant | NaH | 3.4 mmol, 0.081 g | [H-].[Na+]
reactant | chloromethyl methyl sulphide | 2.95 mmol, 0.285 g | CSCCl | C2H5ClS
reactant | NaI | 2.95 mmol, 0.408 g | [Na+].[I-]
catalyst | TBAI | 0.22 mmol, 0.087 g | CCCC[N+](CCCC)(CCCC)CCCC.[I-]
solvent | DME | 25 mL | COCCOC | C4H10O2
solvent | THF | C1CCOC1 | C4H8O
product | 1-(2-methylsulfanylmethoxyethyl)-1H-benzimidazole-5-carboxylic acid methyl ester | 0.53 g, 83% | COC(=O)C1=CC2=C(N(C=N2)CCOCSC)C=C1 | C13H16N2O3S
